US04007189
8-Cyclooctyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine
A mixture of 2g of 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 1.45g of cyclooctylamine hydrochloride, 4 ml of triethylamine and 20 ml of isopropyl alcohol was stirred under reflux for 1.5 hours, and treated thereafter as described in Example 5. The crystals thus obtained were recrystallized from ethanol to give 1.25g of colorless needles of m.p. 188.5° - 190.5° C.

reactant | 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | ClC1=C(C(=NC=2N1N=CN2)C)CCCl | C8H8Cl2N4
reactant | cyclooctylamine hydrochloride | 1.45g | Cl.C1(CCCCCCC1)N
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | 8-Cyclooctyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine | 1.25g | C1(CCCCCCC1)N1CCC=2C(=NC=3N(C21)N=CN3)C | C16H23N5
